US06787653B2
With ice cooling, 100 mL (1.2 mol) of concentrated hydrochloric acid was added in portions to a solution of 100.0 g (1.16 mol) of piperazine in water (200 mL)-methanol (300 ml) and the mixture was stirred for 30 minutes. To the resulting solution was added dropwise a solution of 127.4 g (0.58 mol) of 4-bromobenzoyl chloride in tetrahydrofuran (300 mL) over about 40 minutes, and the mixture was stirred for 30 minutes. The reaction mixture was concentrated under reduced pressure to remove tetrahydrofuran. To the residue was added water (2 L) and the mixture was stirred for 2 hours at 70° C. At this temperature, insoluble materials were filtered off and the residue was washed with hot water (20 mL). The filtrate and the washing were combined. After cooling to about 20° C., 74.4 g (1.86 mol) of sodium hydroxide was added and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated saline, dried over anhydrous sodium sulfate and concentrated under reduced pressure. Isopropanol (400 mL) was added to the residue and the mixture was concentrated under reduced pressure. Isopropanol (1 L) was added again to the residue. The mixture was stirred at 50° C. to obtain a homogenous solution. Over about 20 minutes, 50 mL (0.60 mol) of concentrated hydrochloric acid was added dropwise to the resulting solution. After stirring for 10 minutes at 50° C., the mixture was cooled to room temperature, and stirred in an ice bath. The precipitates were collected by filtration and washed with isopropanol, whereby 140.1 g of 1-(4-bromobenzoyl)piperazine hydrochloride was obtained as colorless fine needles (yield: 79%).

reactant | hydrochloric acid | 1.2 mol, 100 mL | Cl | ClH
reactant | piperazine | 1.16 mol, 100.0 g | N1CCNCC1 | C4H10N2
reactant | 4-bromobenzoyl chloride | 0.58 mol, 127.4 g | BrC1=CC=C(C(=O)Cl)C=C1 | C7H4BrClO
reactant | sodium hydroxide | 1.86 mol, 74.4 g | [OH-].[Na+]
reactant | hydrochloric acid | 0.60 mol, 50 mL | Cl | ClH
solvent | water | 200 mL | O | H2O
solvent | tetrahydrofuran | 300 mL | O1CCCC1 | C4H8O
solvent | methanol | 300 ml | CO | CH4O
product | 1-(4-bromobenzoyl)piperazine hydrochloride | 140.1 g | Cl.BrC1=CC=C(C(=O)N2CCNCC2)C=C1 | InChI=1S/C11H13BrN2O.ClH/c12-10-3-1-9(2-4-10)11(15)14-7-5-13-6-8-14;/h1-4,13H,5-8H2;1H
